US06670381B2
N-Ethyl-3-hydroxy-N-isopropyl-5-methylbenzamide
To a cooled (<5° C.) suspension of 3-hydroxy-5-methylbenzoic acid1 (50 g) in triethylamine (100 g) and toluene (500 ml) under nitrogen, was added pivaloyl chloride (97.2 ml), and the resultant mixture was stirred at 0-5° C. for 2 h. Ethylisopropylamine (55.7 ml) was added, the reaction mixture was stirred at 0-5° C. for 2 h and allowed to reach room temperature. The mixture was washed twice with water and concentrated under reduced pressure to leave a dark oil. This oil was dissolved in ethanol (500 ml) and treated with 5M NaOH solution (100 g of NaOH in 500 ml of water) for 3 h at room temperature. The ethanol was removed under reduced pressure and the resultant basic solution diluted with water and extracted with toluene. The basic layer was acidified with acetic acid to pH5 and the resultant aqueous mixture extracted with dichloromethane. The combined organic extracts were washed with brine and concentrated under reduced pressure to give the title compound as an orange/brown solid (41 g).

reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | pivaloyl chloride | 97.2 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | Ethylisopropylamine | 55.7 ml | C(C)NC(C)C | C5H13N
reactant | NaOH | 5M, 500 ml, 100 g | [OH-].[Na+]
solvent | triethylamine | 100 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | N-Ethyl-3-hydroxy-N-isopropyl-5-methylbenzamide | 41 g | C(C)N(C(C1=CC(=CC(=C1)C)O)=O)C(C)C | C13H19NO2
